US07135462B2
Preparation of N-tert-Butyl-(1-methyl)cyclopropyl-sulfonamide.
A solution of N-tert-Butyl-(3-chloro)propylsulfonamide (4.3 g, 20 mmol) was dissolved in dry THF (100 mL) and cooled to −78° C. To this solution was added n-BuLi (17.6 mL, 44 mmol, 2.5 M in hexane) slowly. The dry ice bath was removed and the reaction mixture was allowed to warm to rt over a period of 1.5 h. This mixture was then cooled to −78° C., and a solution of n-BuLi (20 mmol, 8 mL, 2.5 M in hexane) was added. The reaction mixture was warmed to rt, recooled to −78° C. over a period of 2 h and a neat solution of methyliodide (5.68 g, 40 mmol) added. The reaction mixture was allowed to warm to rt overnight, quenched with saturated NH4Cl (100 mL) at rt. It was extracted with EtOAc (100 mL). The organic phase was washed with brine (100 mL), dried (MgSO4), and concentrated in vacuo to give a yellow oil which was crystallized from hexane to afford the product as a slightly yellow solid (3.1 g, 81%): 1H NMR (CDCl3) δ 0.79 (m, 2H), 1.36 (s, 9H), 1.52 (m, 2H), 1.62 (s, 3H), 4.10 (bs, 1H).

reactant | N-tert-Butyl-(3-chloro)propylsulfonamide | 20 mmol, 4.3 g | C(C)(C)(C)NS(=O)(=O)CCCCl | C7H16ClNO2S
reactant | n-BuLi | 44 mmol, 2.5 M, 17.6 mL | [Li]CCCC
reactant | n-BuLi | 20 mmol, 2.5 M, 8 mL | [Li]CCCC
reactant | methyliodide | 40 mmol, 5.68 g | CI | CH3I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-tert-Butyl-(1-methyl)cyclopropyl-sulfonamide | 3.1 g, 81% | C(C)(C)(C)NS(=O)(=O)C1(CC1)C | C8H17NO2S
